US07723369B2
2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-1H-imidazole (38.2 g, 0.1 mol) was treated as described in general procedure B using 1-fluoro-4-nitrobenzene to give 2-(4-bromo-benzyl)-1-(4-nitro-phenyl)-4-(2,4-dichloro-phenyl)-1H-imidazole.

reactant | 2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-1H-imidazole | 0.1 mol, 38.2 g | BrC1=CC=C(CC=2NC=C(N2)C2=C(C=C(C=C2)Cl)Cl)C=C1 | C16H11BrCl2N2
reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 2-(4-bromo-benzyl)-1-(4-nitro-phenyl)-4-(2,4-dichloro-phenyl)-1H-imidazole | BrC1=CC=C(CC=2N(C=C(N2)C2=C(C=C(C=C2)Cl)Cl)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C22H14BrCl2N3O2
